US07906532B2
Step 1. tert-Butyl (2R,4R)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-(cyanomethyl)pyrrolidine-1-carboxylate
The mixture of tert-butyl (2S,4R)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-{[(methylsulfonyl)oxy]methyl}pyrrolidine-1-carboxylate (13.95 g, 32.6 mmol, J. Med. Chem. 1988, 31, 1598-611) and sodium cyanide (3.20 g, 65.2 mmol) in dimethylsulfoxide (100 mL) was stirred at 80° C. for 20 h. After cooling to room temperature, water (200 mL) was added to the mixture. The resulting mixture was extracted with ethyl acetate (400 mL×2). The combined organic layer was washed with water (200 mL), brine (200 mL), dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was chromatographed on a column of silica gel eluting with n-hexane/ethyl acetate (5:1) to give 7.81 g (70%) of the title compound as a colorless oil.

reactant | tert-butyl (2S,4R)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-{[(methylsulfonyl)oxy]methyl}pyrrolidine-1-carboxylate | 32.6 mmol, 13.95 g | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)COS(=O)(=O)C | C17H35NO6SSi
reactant | sodium cyanide | 65.2 mmol, 3.20 g | [C-]#N.[Na+]
reactant | water | 200 mL | O | H2O
solvent | dimethylsulfoxide | 100 mL | CS(=O)C | C2H6OS
product | tert-Butyl (2R,4R)-4-{[tert-butyl(dimethyl)silyl]oxy}-2-(cyanomethyl)pyrrolidine-1-carboxylate | 7.81 g, 70% | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CC#N | C17H32N2O3Si
